US07045539B2
Synthetic Method M: Synthesis of 5-hydroxy-2-(4-hydroxy-phenyl)-benzooxazole-7-carbonitrile
To 7-bromo-2-(4-hydroxy-phenyl)-benzooxazol-5-ol (96 mg) in DMF (3 mL) was added CuCN (84 mg). The mixture was placed in an oil bath and heated to 150° C. for 3 h. The mixture was cooled to room temperature and diluted with ethyl acetate and washed with 1N HCl, saturated aqueous EDTA, brine (3×), dried (Na2SO4), and concentrated. Flash chromatography on silica gel eluting with 20% ethyl acetate-hexane afforded 20 mg (25%) of the title compound as a solid. MS: 253 (MH+), HPLC tR: 2.06 min.

reactant | 7-bromo-2-(4-hydroxy-phenyl)-benzooxazol-5-ol | 96 mg | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C13H8BrNO3
reactant | CuCN | 84 mg | C(#N)[Cu]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-2-(4-hydroxy-phenyl)-benzooxazole-7-carbonitrile | 20 mg, 25% | OC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)O)C1)C#N | C14H8N2O3
